US05684034
A solution of 205 mg (0.634 mmol) of 2-methyl-5-nitro-1-(phenylmethyl)-1H-indole-3-acetamide in 30 mL of 2:1 THF/EtOH was hydrogenated at 60 psi (4218 g/cm2) of hydrogen for 4 hours using 0.1 g of Pd/C as catalyst. The catalyst was filtered and the filtrate concentrated at reduced pressure. The residue was chromatographed on silica eluting with EtOAc and then 5% MeOH/EtOAc to give 52 mg (28% yield) of 5-amino-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide, mp, 175°-178° C.

reactant | 2-methyl-5-nitro-1-(phenylmethyl)-1H-indole-3-acetamide | 0.634 mmol, 205 mg | CC=1N(C2=CC=C(C=C2C1CC(=O)N)[N+](=O)[O-])CC1=CC=CC=C1 | C18H17N3O3
reactant | hydrogen | [H][H] | H2
reactant | MeOH EtOAc | CO.CCOC(=O)C
solvent | THF EtOH | 30 mL | C1CCOC1.CCO
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 5-amino-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide | 52 mg, 28% yield | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC(=O)N | C18H19N3O
